US07115740B2
(S)-3-(2-Fluoro-4-methoxy-phenyl)-1-(2-tert-butyl-diphenyl-silanyloxy-1-methyl-ethyl)-7-(4-methoxy-phenylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (0.25 g, 0.35 mmol) was dissolved in anhydrous tetrahydrofuran (2.5 mL) and treated with tetrabutylammonium fluoride (1.0 M in tetrahydrofuran, 1.40 mL, 1.400 mmol). The reaction was stirred in a water bath that was maintained in the 30–40° C. range. The reaction was complete after 4 hours and was concentrated. This residue was redissolved in ethyl acetate and washed with water and brine. The organic phase was dried over anhydrous sodium sulfate, concentrated and then purified by flash chromatography (Biotage 40S, 75:25 ethyl acetate-hexanes) to give (S)-(+)-3-(2-fluoro-4-methoxy-phenyl)-1-(2-hydroxy-1-methyl-ethyl)-7-(4-methoxy-phenylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a pale yellow foam. (Yield 0.14 g, 85.1%).

reactant | (S)-3-(2-Fluoro-4-methoxy-phenyl)-1-(2-tert-butyl-diphenyl-silanyloxy-1-methyl-ethyl)-7-(4-methoxy-phenylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.35 mmol, 0.25 g | FC1=C(C=CC(=C1)OC)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OC)[C@@](C(C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)(C)O[SiH3])=O | C39H42FN5O4Si
reactant | tetrabutylammonium fluoride | 1.400 mmol, 1.0 M, 1.40 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | (S)-(+)-3-(2-fluoro-4-methoxy-phenyl)-1-(2-hydroxy-1-methyl-ethyl)-7-(4-methoxy-phenylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | FC1=C(C=CC(=C1)OC)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OC)[C@H](CO)C)=O | C23H24FN5O4
